US08440663B2
A round-bottomed flask was charged with 2,4-dichloro-5-fluoropyrimidine (0.84 g, 5 mmol), 2-methoxylaniline (0.61 g, 5 mmol) and dioxane (5 mL). The reaction mixture was heated at 85° C. overnight. The reaction was cooled down and diluted with acetonitrile/water, stirred for 30 min. and filtered. The collected solid was re-suspended in acetonitrile/water, stirred and filtered to give a 2-chloro-5-fluoro-N-(2-methoxyphenyl)pyrimidin-4-amine (0.9 g, 70% yield). To a seal tube was added 2-chloro-5-fluoro-N-(2-methoxyphenyl)pyrimidin-4-amine (254 mg), 3-methoxyaniline (500 mg, 4 eq.) and dioxane (5 mL). The mixture was heated to 130° C. overnight. The reaction mixture was cooled and partitioned between EtOAc and water. The organic layer was concentrated; the residue was triturated with a 1:1 mixture of dichloromethane and acetonitrile, then filtered to give the title product as a white solid (150 mg).

reactant | 2,4-dichloro-5-fluoropyrimidine | 5 mmol, 0.84 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2-methoxylaniline | 5 mmol, 0.61 g | O(C)C1=C(N)C=CC=C1 | C7H9NO
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile water | C(C)#N.O
product | 2-chloro-5-fluoro-N-(2-methoxyphenyl)pyrimidin-4-amine | 0.9 g, 70% yield | ClC1=NC=C(C(=N1)NC1=C(C=CC=C1)OC)F | C11H9ClFN3O
